US09353107B2
Step-iii: 3-(1-(3,5-difluorobenzyl)-1H-pyrazol-3-yl)-5-(4-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine hydrochloride
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (27 mg, 0.047 mmol) was deprotected in methanol/HCl in diethyl ether (2/1 ml) to afford 15 mg (62.5% yield) of the titled compound. 1H NMR (DMSO-d6, 300 MHz): δ 11.9 (s, 1H), 9.10-9.00 (bs, 2H), 8.598-8.52 (m, 2H), 7.91-7.89 (m, 2H), 7.60-7.57 (d, 2H), 7.17-7.00 (m, 4H), 6.71-6.70 (d, 1H), 5.41 (s, 2H), 3.23 (s, 5H). MS: m/z=471.3 (M+1), HPLC: 97.74% in method B.

reactant | tert-butyl 4-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.047 mmol, 27 mg | FC=1C=C(CN2N=C(C=C2)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)N3CCN(CC3)C(=O)OC(C)(C)C)C=C(C1)F | C32H32F2N6O2
reactant | methanol HCl | CO.Cl
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
product | 3-(1-(3,5-difluorobenzyl)-1H-pyrazol-3-yl)-5-(4-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | 15 mg, 62.5% yield | Cl.FC=1C=C(CN2N=C(C=C2)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)N3CCNCC3)C=C(C1)F | InChI=1S/C27H24F2N6.ClH/c28-21-11-18(12-22(29)14-21)17-35-8-5-26(33-35)25-16-32-27-24(25)13-20(15-31-27)19-1-3-23(4-2-19)34-9-6-30-7-10-34;/h1-5,8,11-16,30H,6-7,9-10,17H2,(H,31,32);1H
